US05629254
Synthesis of 2-n-propyl-4-(9-phenanthryl)indene
A 300-ml four-necked round flask equipped with a stirring bar, a Dimroth condenser, a dropping funnel and a thermometer was charged with 6.20 g (18.5 mmol) of 2-n-propyl-4-(9-phenantolyl)indene, 120 ml of dry ether and 50 mg of copper cyanide. To the mixture was added dropwise 12.5 ml (20.4 mmol) of a hexane solution containing 1.63M n-butyl lithium while cooling with ice bath. After the addition was completed, the mixture was stirred under reflux for 1.5 hours. Then, to the resulting mixture was added dropwise a solution containing 1.34 ml (11.1 mmol) of dimethyldichlorosilan dissolved in 10 ml of dry ether. After the addition was completed, the mixture was stirred overnight at room temperature. Then, the reaction mixture was poured onto 200 ml of a saturated aqueous solution of ammonium chloride. After the filtration, the filtrate was extracted with 100 ml of ether three times. The organic phase was washed with 200 ml of a saturated NaCl aq. and dried over anhydrous MgSO4. The solvent was evaporated to give a yellow-white powder. The powder thus obtained was purified with silica gel chromatography to give 3.80 g of the desired product as a yellow-white powder (yield: 54%).

reactant | hexane | 20.4 mmol, 12.5 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 1.63M | C(CCC)[Li]
reactant | dimethyldichlorosilan | 11.1 mmol, 1.34 ml | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 ml | CCOCC | C4H10O
catalyst | copper cyanide | 50 mg | [Cu](C#N)C#N
solvent | ether | 120 ml | CCOCC | C4H10O
product | 2-n-propyl-4-(9-phenanthryl)indene | 3.80 g, yield: 54% | C(CC)C=1CC2=CC=CC(=C2C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C26H22
